US08350052B2
Preparation of 1-benzyl-3-hydroxymethyl-1H-indazole
1-benzyl-1H-indazol-3-carbaldehyde (2.36 g, 10 mmol, 1 eq.) and toluene (12 mL) were placed in a thoroughly dried 100 mL flask fitted with a magnetic stirrer and inerted with nitrogen. A 70% solution of sodium dihydro-bis(2-methoxyethoxy)aluminate in toluene (2.8 mL, 10 mmol, 2 eq.) was then slowly added to the solution at room temperature. Once the reaction was complete (after approximately 15 minutes), 2 M HCl (10 mL), H2O (10 mL) and toluene (15 mL) were added. The phases were separated and the aqueous phase was extracted twice with toluene. The pooled organic phases were washed with water and concentrated. The product was then precipitated out by adding n-hexane, filtered and dried. Yield: 1.95 g of white solid (82.0%).

reactant | 1-benzyl-1H-indazol-3-carbaldehyde | 10 mmol, 2.36 g, 1 eq. | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=O | C15H12N2O
reactant | HCl | 2 M, 10 mL | Cl | ClH
reactant | H2O | 10 mL | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mmol, 2.8 mL, 2 eq. | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-hydroxymethyl-1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CO | C15H14N2O
